* D:\¹q¾÷¤j¤G¤W\¹q¤l¹êÅç(¤@)\Lab\Lab3 Basic Component\LTspice_Simulation\Speaker\speaker.asc
V1 CH1_1k 0 SINE(0 1 1k)
L1 CH1_1k CH2_1k 100µ Rser=5
R1 CH2_1k 0 1
V2 CH1_10k 0 SINE(0 1 10k)
L2 CH1_10k CH2_10k 100µ Rser=5
R2 CH2_10k 0 1
;tran 3m
.tran 0.9m
.backanno
.end
