*SRC=BZT52C5V1LP;DI_BZT52C5V1LP;Diodes;Zener <=10V; 5.10V  0.250W   Diodes Inc. QFN Zener
*SYM=HZEN
.SUBCKT DI_BZT52C5V1LP  1 2
*        Terminals    A   K
D1 1 2 DF
DZ 3 1 DR
VZ 2 3 2.71
.MODEL DF D ( IS=20.2p RS=33.0 N=1.10
+ CJO=132p VJ=0.750 M=0.330 TT=50.1n )
.MODEL DR D ( IS=4.04f RS=44.5 N=3.00 )
.ENDS