.SUBCKT ECG_Source       RA LA RL

R1 RA n001 1Meg
R2 LA n002 1Meg

V1 n001 RL wavefile="human.wav" chan=0
V2 n002 RL wavefile="human.wav" chan=1

.ENDS
*$